US06686353B1
A solution of di-tert-butyl dicarbonate (25 g, 115 mmol.) in CH2Cl2 (100 mL) was added over a period of 20 min to a solution of homopiperazine (57 g, 5.0 equiv) in CH2Cl2 (200 mL). The reaction mixture was stirred at room temperature for 3 days. H2O (150 mL) was added to the reaction mixture and the mixture was extracted with CH2Cl2 (2×100 mL). The combined extracts were washed with brine and dried over MgSO4. The solvent was removed under reduced pressure to afford an oil which was purified by simple distillation to give 1-(tert-butyloxycarbonyl)homopiperazine: 13.68 g, 59% yield, colorless oil: The purity was determined by GC/MS (95%), m/e 200.1 (M+, C10H20N2O2).

reactant | di-tert-butyl dicarbonate | 115 mmol, 25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | homopiperazine | 57 g, 5.0 equiv | N1CCNCCC1 | C5H12N2
reactant | H2O | 150 mL | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(tert-butyloxycarbonyl)homopiperazine | 59% yield | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
